US08283353B2
4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyano-2-methylbiphenyl-4-yl)methyl]-3-oxohexanoate (3.00 g), N-(1,4-dioxaspiro[4.5]dec-8-yl)-3-methyl-1H-1,2,4-triazol-5-amine (1.00 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.3 mL) and N,N-diethylaniline (10 mL) was stirred at 180° C. overnight, allowed to cool and poured into 1 M hydrochloric acid (50 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a brown oil (1.20 g, 53%).

reactant | ethyl 2-[(2′-cyano-2-methylbiphenyl-4-yl)methyl]-3-oxohexanoate | 3.00 g | C(#N)C1=C(C=CC=C1)C1=C(C=C(C=C1)CC(C(=O)OCC)C(CCC)=O)C | C23H25NO3
reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-3-methyl-1H-1,2,4-triazol-5-amine | 1.00 g | O1CCOC12CCC(CC2)NC2=NC(=NN2)C | C11H18N4O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N,N-diethylaniline | 10 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | hydrochloric acid | 1 M, 50 mL | Cl | ClH
product | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile | 1.20 g, 53% | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC(=C(C=C2)C=2C(=CC=CC2)C#N)C)CCC)N=C(N1)C | C32H35N5O3
